US09145433B2
Analogous to the preparation of 5-(2-chloropyridin-3-yl)-1H-indazole,5-(2-chloropyridin-3-yl)-1-methyl-1H-indazole was prepared by heating the mixture of 5-bromo-1-methyl-1H-indazole (1.0 g, 4.7 mmol), 2-chloro-3-pyridine boronic acid pinacol ester (1.2 g, 5.2 mmol), Pd(PPh3)4 (270 mg, 0.23 mmol) and 2M aq. Na2CO3 (6 mL, 12 mmol) in 1,4-dioxane (75 mL) under argon atmosphere for 12 h. Upon work-up as discussed in the preparation of 5-(2-chloropyridin-3-yl)-1H-indazole and purification of the concentrate by flash silica gel column chromatography [Combiflash® companion System® with RediSep® silica gel column 40 g, 30-50% EtOAc/hexanes eluting solvent gradient upon dry loading the concentrate absorbed on silica gel] provided 5-(2-chloropyridin-3-yl)-1methyl-1H-indazole as white solid (0.84 g, 73%). 1H NMR (DMSO-d6): δ 8.41 (dd, 1H, J=1.7 and 4.7 Hz), 8.10 (s, 1H), 7.90 (dd, 1H, J=1.7 and 7.6 Hz), 7.83 (app t, 1H, J=0.6 Hz), 7.72 (dd, 1H, J=0.6 and 8.8 Hz), 7.51 (dd, 1H, J=4.7 and 7.6 Hz), 7.48 (dd, 1H, J=1.7 and 8.8 Hz), 4.07 (s, 3H).LCMS: rt 6.73 min (A), purity 99%, MS (m/e) 244 (MH+).

reactant | 5-bromo-1-methyl-1H-indazole | 4.7 mmol, 1.0 g | BrC=1C=C2C=NN(C2=CC1)C | C8H7BrN2
reactant | 2-chloro-3-pyridine boronic acid pinacol ester | 5.2 mmol, 1.2 g | ClC1=NC=CC=C1B1OC(C)(C)C(C)(C)O1 | C11H15BClNO2
reactant | Na2CO3 | 12 mmol, 2M, 6 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-(2-chloropyridin-3-yl)-1H-indazole | ClC1=NC=CC=C1C=1C=C2C=NNC2=CC1 | C12H8ClN3
solvent | 1,4-dioxane | 75 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.23 mmol, 270 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-chloropyridin-3-yl)-1methyl-1H-indazole | 0.84 g, 73% | ClC1=NC=CC=C1C=1C=C2C=NN(C2=CC1)C | C13H10ClN3
